US07521451B2
To a solution of lithium borohydride (80 mg, 3.7 mmol) in tetrahydrofuran was added with stirring 5,6-dimethyl-2-(4-fluorophenyl)-3-ethoxycarbonylmethylisoindolin-1-one [IUPAC name: ethyl 2-[2-(4-fluorophenyl)-5,6-dimethyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl]acetate] (0.63 g, 1.9 mmol) under ice cooling and stirred at 25° C. for 39 hrs. To the reaction solution was added water, and the precipitated crystals were collected by filtration, washed with water, followed by drying to give 0.51 g of 5,6-dimethyl-2-(4-fluorophenyl)-3-(2-hydroxyethyl)isoindolin-1-one.

reactant | lithium borohydride | 3.7 mmol, 80 mg | [BH4-].[Li+]
reactant | 5,6-dimethyl-2-(4-fluorophenyl)-3-ethoxycarbonylmethylisoindolin-1-one | 1.9 mmol, 0.63 g | CC=1C=C2C(N(C(C2=CC1C)=O)C1=CC=C(C=C1)F)CC(=O)OCC | C20H20FNO3
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5,6-dimethyl-2-(4-fluorophenyl)-3-(2-hydroxyethyl)isoindolin-1-one | 0.51 g | CC=1C=C2C(N(C(C2=CC1C)=O)C1=CC=C(C=C1)F)CCO | C18H18FNO2
